US08486952B2
2,4-dichloro-7-(4-fluorophenyl)-6,7-dihydro-5H-cyclopenta[d]pyrimidine (Preparation H) was reacted as described in Preparation Hc with 4-fluoro-1,2,3,6-tetrahydropyridine to afford 2-chloro-4-(4-fluoro-5,6-dihydropyridin-1(2H)-yl)-7-(4-fluorophenyl)-6,7-dihydro-5H-cyclopenta[d]pyrimidine (Preparation Hs).

reactant | 2,4-dichloro-7-(4-fluorophenyl)-6,7-dihydro-5H-cyclopenta[d]pyrimidine | ClC=1N=C(C2=C(N1)C(CC2)C2=CC=C(C=C2)F)Cl | C13H9Cl2FN2
reactant | 4-fluoro-1,2,3,6-tetrahydropyridine | FC=1CCNCC1 | C5H8FN
product | 2-chloro-4-(4-fluoro-5,6-dihydropyridin-1(2H)-yl)-7-(4-fluorophenyl)-6,7-dihydro-5H-cyclopenta[d]pyrimidine | ClC=1N=C(C2=C(N1)C(CC2)C2=CC=C(C=C2)F)N2CC=C(CC2)F | C18H16ClF2N3
